US08357688B2
To a mixture of 150 mg of 4-oxo-1-propyl-4,5-dihydro[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid, 165 mg of 1-methyl-2-phenyl piperazine dihydrochloride, 0.24 mL of triethylamine, 112 mg of 1-hydroxybenzotriazole, and 2.25 mL of N,N-dimethylformamide was added 158 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, followed by stirring at room temperature for 1 day. To the reaction liquid were added a saturated aqueous sodium hydrogen carbonate solution and saturated brine, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and then the solvent was evaporated. The residue was purified by silica gel column chromatography (chloroform/methanol=95/5 to 90/10). The obtained solid was triturated with a mixture of ethanol and diisopropyl ether to give a powder. The precipitate was collected by filtration, washed with diisopropyl ether, and dried under reduced pressure to obtain 197 mg of 7-[(4-methyl-3-phenyl piperazin-1-yl)carbonyl]-1-propyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one as a white powder.

reactant | 4-oxo-1-propyl-4,5-dihydro[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid | 150 mg | O=C1C=2N(C3=CC=C(C=C3N1)C(=O)O)C(=NN2)CCC | C13H12N4O3
reactant | 1-methyl-2-phenyl piperazine dihydrochloride | 165 mg | Cl.Cl.CN1C(CNCC1)C1=CC=CC=C1
reactant | 1-hydroxybenzotriazole | 112 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 158 mg | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | brine | [Cl-].[Na+].O
solvent | N,N-dimethylformamide | 2.25 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.24 mL | C(C)N(CC)CC | C6H15N
product | 7-[(4-methyl-3-phenyl piperazin-1-yl)carbonyl]-1-propyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 197 mg | CN1C(CN(CC1)C(=O)C=1C=C2NC(C=3N(C2=CC1)C(=NN3)CCC)=O)C3=CC=CC=C3 | C24H26N6O2
